data/mechanism_extracts/NatCommun/10.1038_s41467-023-44029-w.json
{"doi": "10.1038_s41467-023-44029-w", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Electroreductive 1,2-hydroxy fluorosulfonylation of alkenes with FSO2Cl and O2 (air) to deliver beta-hydroxy sulfonyl fluorides via radical chain involving FSO2 radical, peroxy radical, and reduction by B2(OH)4/Et3SiH.", "mechanism_family": ["radical_cathodic", "sacrificial_anode", "radical_polar_crossover"], "electrochemical_role": "Cathodic reduction of FSO2Cl at Zn cathode generates FSO2 radical (and Cl-); the low local FSO2Cl concentration at the cathode suppresses Cl-atom transfer and favors O2 interception of the benzylic radical. Aluminum sacrificial anode supports the circuit.", "key_intermediates": [{"name": "FSO2 radical (fluorosulfonyl radical)", "smiles": "[O]S(=O)F", "role": "reactive"}, {"name": "benzylic C-radical I (PhCH•CH2SO2F)", "smiles": "[CH](c1ccccc1)CS(=O)(=O)F", "role": "reactive"}, {"name": "benzyl peroxy radical II (PhCH(OO•)CH2SO2F)", "smiles": "[O]OC(c1ccccc1)CS(=O)(=O)F", "role": "reactive"}, {"name": "hydroperoxide III (PhCH(OOH)CH2SO2F)", "smiles": "OOC(c1ccccc1)CS(=O)(=O)F", "role": "transient"}, {"name": "borate-bound alkoxide intermediate IV/VI (B(OH)2-O-CHR-CH2SO2F)", "smiles": "OB(O)OC(c1ccccc1)CS(=O)(=O)F", "role": "transient"}, {"name": "triethylsilyl radical (Et3Si•)", "smiles": "[Si](CC)(CC)CC", "role": "reactive"}, {"name": "Et3SiCl (from XAT with FSO2Cl)", "smiles": "Cl[Si](CC)(CC)CC", "role": "off_pathway"}, {"name": "hexaethyldisilane (Et3Si-SiEt3, from Et3Si• homocoupling)", "smiles": "CC[Si](CC)(CC)[Si](CC)(CC)CC", "role": "off_pathway"}, {"name": "B(OH)3 (released after hydrolysis/reduction)", "smiles": "OB(O)O", "role": "off_pathway"}, {"name": "beta-keto sulfonyl fluoride 4 (Russell fragmentation byproduct)", "smiles": "O=C(c1ccccc1)CS(=O)(=O)F", "role": "off_pathway"}], "electron_flow": "At the Zn cathode, FSO2Cl is reduced to FSO2• (and Cl-); FSO2• adds to styrene to give benzylic radical I, which is trapped by O2 to peroxy radical II; HAT from Et3SiH gives hydroperoxide III, which is reduced by B2(OH)4 through borate intermediate IV/VI and hydrolyzed to the beta-hydroxy sulfonyl fluoride, while Et3Si• regenerates FSO2• via halogen-atom transfer with FSO2Cl to sustain the chain.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely inhibited, supporting a radical pathway."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction completely inhibited."}, {"name": "1,1-diphenylethylene (DPE, 58)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Trapping of FSO2• afforded adduct 59 in 10% yield, supporting FSO2 radical generation."}, {"name": "beta-keto sulfonyl fluoride 4 (resubjection)", "smiles": "O=C(c1ccccc1)CS(=O)(=O)F", "purpose": "intermediate_trap", "observation": "Compound 4 was not reduced to 3 under standard conditions; products 3 and 4 arise via divergent pathways."}, {"name": "constant potential electrolysis", "smiles": null, "purpose": "redox_probe", "observation": "Optimal at E_cathode = -0.1 V (87%); more reductive potentials (-0.5, -1.0 V) gave lower yields, indicating mild reduction is needed."}, {"name": "N2 atmosphere control", "smiles": null, "purpose": "other", "observation": "Under N2, no product formed and styrene was recovered, confirming O2 is essential."}, {"name": "cyclic voltammetry of Et3SiH and B2(OH)4", "smiles": null, "purpose": "redox_probe", "observation": "Neither Et3SiH nor B2(OH)4 is directly involved in the electrochemical step (no redox features)."}, {"name": "11B NMR detection of B(OH)3", "smiles": "OB(O)O", "purpose": "intermediate_trap", "observation": "B(OH)3 detected, consistent with B2(OH)4 reducing the hydroperoxide via borate intermediate."}, {"name": "HRMS-ESI detection of (Et3Si)2", "smiles": "CC[Si](CC)(CC)[Si](CC)(CC)CC", "purpose": "intermediate_trap", "observation": "Hexaethyldisilane detected, supporting Et3Si• as chain carrier (and competing homocoupling)."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "stoichiometric_intermediate", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Competing pathways outlined in Fig. 5c (right): in the absence of Et3SiH/B2(OH)4, peroxy radical II undergoes Russell fragmentation to give beta-keto sulfonyl fluoride 4 plus 3; an alternative cathodic reduction of an alkoxy radical to alkoxide is also drawn. A separate EDA-complex (styrene·FSO2Cl) pathway under daylight without electricity also gives product (78%) but with limited scope. Constant cell voltage (not constant current) is required to maintain low local [FSO2Cl] and avoid over-reduction."}
